US05916898
Using a procedure analogous to that described in Example 2 in the section relating to the preparation of starting materials 3-[N-(4-fluorobenzyl)-N-methylcarbamoyl]-8-aminoquinoline was reacted with diethyl ethoxymethylenemalonate to give 3-ethoxycarbonyl-8-[N-(4-fluorobenzyl)-N-methylcarbamoyl]-4-oxo-3,4-dihydro-1,10-phenanthroline in 64% yield, mp 206-207° C.

reactant | 3-[N-(4-fluorobenzyl)-N-methylcarbamoyl]-8-aminoquinoline | FC1=CC=C(CN(C(=O)C=2C=NC3=C(C=CC=C3C2)N)C)C=C1 | C18H16FN3O
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 3-ethoxycarbonyl-8-[N-(4-fluorobenzyl)-N-methylcarbamoyl]-4-oxo-3,4-dihydro-1,10-phenanthroline | 64% yield | C(C)OC(=O)C1C=NC2=C3N=CC(=CC3=CC=C2C1=O)C(N(C)CC1=CC=C(C=C1)F)=O | C24H20FN3O4
